US08703946B2
A 60% dispersion of sodium hydride in mineral oils (0.16 g, 4.0 mmol) was added to a stirred solution of 4,5,6,7-tetrahydro-4-oxo-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester (0.7 g, 3.35 mmol) in DMF (14 mL) at 0° C. The mixture was stirred at room temperature for 1 hour and then benzyl bromide (0.48 mL, 4.0 mmol) was added. The mixture was stirred at room temperature for 16 hours, diluted with H2O and extracted with DCM. The organic layer was separated, washed with brine, dried (NaSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield 4,5,6,7-tetrahydro-4-oxo-5-(phenylmethyl)-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester (0.83 g, 83% yield) as a white oil. C16H17N3O3 LCMS: Rt 1.79, m/z 300 [M+H]+ (see LCMS Method 1).

reactant | sodium hydride | [H-].[Na+]
reactant | 4,5,6,7-tetrahydro-4-oxo-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 3.35 mmol, 0.7 g | C(C)OC(=O)C1=NN2C(C(NCC2)=O)=C1 | C9H11N3O3
reactant | benzyl bromide | 4.0 mmol, 0.48 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 4,5,6,7-tetrahydro-4-oxo-5-(phenylmethyl)-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 0.83 g, 83% yield | C(C)OC(=O)C1=NN2C(C(N(CC2)CC2=CC=CC=C2)=O)=C1 | C16H17N3O3
